US06927228B2
(e) N-Octyl-4′-(2,4-dioxothiazolidin-5-ylmethyl)-biphenyl-3-carboxamide
150 mg (0.35 mmol) of N-octyl-4′-(2,4-dioxo-thiazolidin-5-ylidenemethyl)biphenyl-3-carboxamide, 20 ml of dimethylformamide and 150 mg of palladium-on-charcoal (10%) are introduced into a reactor under a stream of nitrogen. The medium is heated at 80° C. and hydrogenated under a pressure of 3 atm for 5 hours. The reaction medium is filtered through Celite. The filtrate is placed in water, extracted with ethyl acetate and washed thoroughly with water. The organic phase is dried over magnesium sulfate, filtered and evaporated. The residue is chromatographed on a column of silica, eluted with a mixture of heptane and ethyl acetate (30/70). 100 mg (65%) of the expected product, with a melting point of 137-138° C., are obtained.

reactant | N-octyl-4′-(2,4-dioxo-thiazolidin-5-ylidenemethyl)biphenyl-3-carboxamide | 0.35 mmol, 150 mg | C(CCCCCCC)NC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C25H28N2O3S
catalyst | palladium-on-charcoal | 150 mg | [Pd] | Pd
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-Octyl-4′-(2,4-dioxothiazolidin-5-ylmethyl)-biphenyl-3-carboxamide | 100 mg, 65% | C(CCCCCCC)NC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C25H30N2O3S
